* NGSPICE file created from tri_buff_cell_rcx.ext - technology: ihp-sg13g2

.subckt tri_buff_cell_rcx VSS S A X VDD
X0 X.t0 A.t0 a_220_96# VSS.t3 sg13_lv_nmos ad=0.2822p pd=2.34u as=74.7f ps=1.01u w=0.83u l=0.13u
X1 a_220_96# S.t0 VSS.t1 VSS.t0 sg13_lv_nmos ad=74.7f pd=1.01u as=0.1577p ps=1.21u w=0.83u l=0.13u
X2 a_220_412# a_24_96# VDD.t1 VDD.t0 sg13_lv_pmos ad=0.1116p pd=1.42u as=0.2356p ps=1.62u w=1.24u l=0.13u
X3 X.t1 A.t0 a_220_412# VDD.t0 sg13_lv_pmos ad=0.4216p pd=3.16u as=0.1116p ps=1.42u w=1.24u l=0.13u
X4 VDD.t1 S.t0 a_24_96# VDD.t0 sg13_lv_pmos ad=0.2356p pd=1.62u as=0.4216p ps=3.16u w=1.24u l=0.13u
X5 VSS.t1 S.t0 a_24_96# VSS.t2 sg13_lv_nmos ad=0.1577p pd=1.21u as=0.2822p ps=2.34u w=0.83u l=0.13u
R0 X X.t0 18.0243
R1 X X.t1 5.73859
R2 A A.t0 15.1851
R3 S S.t0 15.0769
R4 VDD.n0 VDD.t0 8.50843
R5 VDD.n0 VDD.t1 5.99815
R6 VDD VDD.n0 0.15803
R7 VSS.n1 VSS.t0 474.414
R8 VSS.t0 VSS.n0 249.952
R9 VSS.n1 VSS.t2 170.718
R10 VSS.n0 VSS.t3 148.355
R11 VSS.n3 VSS.t1 17.2842
R12 VSS.n2 VSS.n0 11.7124
R13 VSS.n2 VSS.n1 10.0222
R14 VSS.n3 VSS.n2 4.25824
R15 VSS VSS.n3 0.158409
C0 VDD a_24_96# 0.36592f
C1 VDD a_220_412# 0.00506f
C2 S A 0.03113f
C3 X a_220_96# 0.00603f
C4 S X 0.00625f
C5 a_220_96# a_24_96# 0
C6 S a_24_96# 0.38461f
C7 VDD a_220_96# 0
C8 VDD S 0.06904f
C9 X A 0.32184f
C10 A a_24_96# 0.0408f
C11 VDD A 0.0678f
C12 X a_24_96# 0.25827f
C13 a_220_412# X 0.00971f
C14 a_220_412# a_24_96# 0
C15 VDD X 0.1715f
C16 X VSS 0.52812f
C17 A VSS 0.31635f
C18 S VSS 0.29469f
C19 VDD VSS 0.1183f
C20 a_220_96# VSS 0.00347f
C21 a_220_412# VSS 0
C22 a_24_96# VSS 0.21217f
C23 VDD.t1 VSS 0.04131f
C24 VDD.t0 VSS 0.51681f
C25 VDD.n0 VSS 0.10819f
C26 S.t0 VSS 0.37276f
C27 A.t0 VSS 0.29041f
C28 X.t0 VSS 0.1508f
C29 X.t1 VSS 0.21908f
.ends

